US07319098B2
Synthesis of 1-(2-{[2-(2-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carbonyl]-amino}-ethyl)-piperidinium chloride (Compound 75)
2-(2-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carboxylic acid (100 mg, 0.316 mmol) and 2-piperidin-1-yl-ethylamine (113 μL, 0.792 mmol) were reacted with each other. Target compound in the amount of 131 mg (90%) was obtained by following the procedure described in Example 1.

reactant | 2-(2-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carboxylic acid | 0.316 mmol, 100 mg | ClC1=C(CN2C(C3=CC=C(C=C3C2=O)C(=O)O)=O)C=CC=C1 | C16H10ClNO4
reactant | 2-piperidin-1-yl-ethylamine | 0.792 mmol, 113 μL | N1(CCCCC1)CCN | C7H16N2
product | 1-(2-{[2-(2-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carbonyl]-amino}-ethyl)-piperidinium chloride | [Cl-].ClC1=C(CN2C(C3=CC=C(C=C3C2=O)C(=O)NCC[NH+]2CCCCC2)=O)C=CC=C1 | InChI=1S/C23H24ClN3O3.ClH/c24-20-7-3-2-6-17(20)15-27-22(29)18-9-8-16(14-19(18)23(27)30)21(28)25-10-13-26-11-4-1-5-12-26;/h2-3,6-9,14H,1,4-5,10-13,15H2,(H,25,28);1H
